US05817874
To a solution of 4-ethoxyphenol (511 mg, 3.70 mmol) in dioxane (20 mL) was added NaH (Aldrich, dry, 300 mg, 12.2 mmol) and Cs2CO3 (4.00 g, 12.2 mmol). The resulting mixture was stirred at room temperature for about 30 minutes, then 2-bromo-2-methyl-propanamide (2.03 g, 12.2 mmol) was added and the resulting mixture was stirred at reflux for 16 h. After the reflux period, NMP (20 mL), DMPU (2 mL), and NaH (Aldrich, dry, 100 mg, 4.07 mmol) were added. The resulting mixture was stirred at 150° C. for 72 h. The reaction was cooled to room temp., and partitioned between water (50 mL) and EtOAc (100 mL). The aqueous layer was extracted with EtOAc (100 mL) and the combined organics washed with water (2×50 mL), dried (Na2SO4), and concentrated to about 2 g of material. The brown oil was chromatographed on silica (200 mL, 4 cm diam. column), eluting with 3:7 EtOAc/hexane to obtain N-(4-ethoxyphenyl) -2-hydroxy-2-methylpropionamide as an off-white solid (536 mg, 2.40 mmol, 64.8% yield).: mp 146-148° C. 1H NMR (400 MHz, CDCl3) δ 8.59 (br s, 1H, N--H), 7.45 (dd, 2H, Ar--H, J=9.0, 2.2 Hz), 6.84 (dd, 2H, Ar--H, J=9.0, 2.2 Hz), 4.00 (q, 2H, CH2 -CH3, J=7.1 Hz), 2.73 (br s, 1H, O--H), 1.53 (s, 6H, C(CH3)2), 1.39 (t, 3H, CH2 -CH3, J=7.1 Hz); 13C NMR (75 MHz, CDCl3) δ 174.0, 155.7, 130.6, 74.0, 63.7, 27.9, 14.8; IR (KBr pellet) 1604, 1647 (amide C=O stretches), 3256 (NH stretch), 3281 (OH stretch); MS (CI/CH4) 224;

reactant | 4-ethoxyphenol | 3.70 mmol, 511 mg | C(C)OC1=CC=C(C=C1)O | C8H10O2
reactant | NaH | 12.2 mmol, 300 mg | [H-].[Na+]
reactant | Cs2CO3 | 12.2 mmol, 4.00 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromo-2-methyl-propanamide | 12.2 mmol, 2.03 g | BrC(C(=O)N)(C)C | C4H8BrNO
reactant | NaH | 4.07 mmol, 100 mg | [H-].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | DMPU | 2 mL | CN1CCCN(C1=O)C | C6H12N2O
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | N-(4-ethoxyphenyl) -2-hydroxy-2-methylpropionamide | 2.40 mmol, 536 mg, 64.8% yield | C(C)OC1=CC=C(C=C1)NC(C(C)(C)O)=O | C12H17NO3
